US04265901
Preparation of 1,2-Dihydroxy-2-(1,1,2,2-Tetrafluoroethyl)-4-Nitro-6-(Trifluoromethyl)Benzimidazoline
A mixture of N-(2,2,3,3-tetrafluoropropionyl)-2,6-dinitro-4-(trifluoromethyl)aniline (20 grams), 200 ml. of ethanol, and 1.5 grams of 5 percent palladium on carbon was hydrogenated to 137 lbs. TLC showed three streaks. The solution was left standing for 11/2 hours, after which the expected product streak predominated. The reaction mixture was hydrogenated further (8 more lbs) then left standing another 20 minutes. The reaction mixture was then filtered and evaporated, leaving 17.8 grams of an orange solid. It was dissolved in about 75 ml. of water and 2.1 grams of NaOH, filtered, and acidified with slow dropwise addition of about 10 ml. of acetic acid in about 50 ml. of water. At about pH 5-6, a glob of sticky dark material coagulated onto the stirrer and was removed. The acidification was continued, yielding a flocculant precipitate which was separated by filtration and air dried. It was purified by dissolving it in a small amount of 1 percent NaOH solution and reacidifying with dilute acetic acid, yielding the expected product as a pale yellow solid which on rapid heating melted sharply at about 100° C., resolidified, and melted again at 216°-219° C.

reactant | N-(2,2,3,3-tetrafluoropropionyl)-2,6-dinitro-4-(trifluoromethyl)aniline | 20 grams | FC(C(=O)NC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-])(C(F)F)F | C10H4F7N3O5
catalyst | palladium on carbon | 1.5 grams | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 1,2-Dihydroxy-2-(1,1,2,2-Tetrafluoroethyl)-4-Nitro-6-(Trifluoromethyl)Benzimidazoline | ON1C(NC2=C1C=C(C=C2[N+](=O)[O-])C(F)(F)F)(C(C(F)F)(F)F)O | C10H6F7N3O4
